US08754053B2
4-[5-(3,5-Dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid ethyl ester (VIIIa)
0.62 g of 4-[3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid ethyl ester (XVIIa) was mixed with 0.21 g of N-methylhydroxylamine hydrochloride and 0.42 ml of triethylamine in 10 ml of dry ethanol. The mixture was refluxed for 20 hours, evaporated to dryness and purified on silica gel giving 0.275 g (42%) of 4-[5-(3,5-Dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid ethyl ester (VIIIa) as a colorless oil 1H-NMR (CDCl3, δ in ppm): 7.93 (d, 1H), 7.30-7.45 (m, 5H), 5.43 (s, 1H), 4.37 (q, 2H), 2.99 (s, 3H), 2.61 (s, 3H), 1.40 (t, 3H).

reactant | 4-[3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid ethyl ester | 0.62 g | C(C)OC(C1=C(C=C(C=C1)C(C=C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C20H15Cl2F3O3
reactant | N-methylhydroxylamine hydrochloride | 0.21 g | Cl.CNO
reactant | triethylamine | 0.42 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[5-(3,5-Dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1)C=1N(OC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)C)=O | C21H18Cl2F3NO3
